US07652143B2
Ethyl 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate (0.330 g; 0.80 mmol) was dissolved in methanol (MeOH; 6 ml). NaOH solution (1N; 3 ml) as added, and the mixture was stirred at RT for 3 h. The solvent was removed under reduced pressure, and saturated NaH2PO4 solution (2 ml) was added to he residue. The solid was filtered off with suction and dried under reduced pressure at 60° C. to result in 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid (0.25 g; 0.66 mmol). MS: 383.10 (M+H); Rt: 1.57 min (method: gradient 0 min 90% H2O (0.05% TFA) 1.9 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 10% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | Ethyl 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate | 0.80 mmol, 0.330 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(N(CC2)C(C(=O)OCC)C(C)C)=O)C=C1 | C24H30N2O4
reactant | NaOH | 1N, 3 ml | [OH-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid | 0.66 mmol, 0.25 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(N(CC2)C(C(=O)O)C(C)C)=O)C=C1 | C22H26N2O4
